US06713474B2
Imidazole (0.070 g, 1.03 mmol) was added into a solution of 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}ethyl methanesulfonate (0.052 g, 0.10 mmol) in N,N-dimethylformamide (2 mL). The mixture was stirred at 40° C. for 5 hours. 60% Sodium hydride in mineral oil (0.021 g, 052 mmol) was added and the mixture was stirred at ambient temperature overnight. The solvent was removed under reduced pressure and the residue was purified by preparative RP-HPLC to yield 7-{4-[2-(1H-1-imidazolyl)ethyl]cyclohexyl}-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.030 g, 0.063 mmol) as a white solid: 1H NMR (CDCl3, 400 MHz) δ 8.30(s, 1H), 7.55(br, 1H), 7.44(d, 2H), 7.42(t, 2H), 7.16(t, 1H), 7.08(m, 6H), 6.95(br, 1H), 5.49(br, 2H), 4.72(m, 1H), 4.01(t, 2H), 1.99-1.71 (m, 11H); RP-HPLC (Hypersil C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% over 10 min acetonitrile-0.05M ammonium acetate, 1 mL/min) Rt 9.18 min; MS: MH+ 479.

reactant | Imidazole | 1.03 mmol, 0.070 g | N1C=NC=C1 | C3H4N2
reactant | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}ethyl methanesulfonate | 0.10 mmol, 0.052 g | CS(=O)(=O)OCCC1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C27H30N4O4S
reactant | Sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 7-{4-[2-(1H-1-imidazolyl)ethyl]cyclohexyl}-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.063 mmol, 0.030 g | N1(C=NC=C1)CCC1CCC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C29H30N6O
